US05849666
0.8 g (2.5 mmol) of methyl 4-(2-isobutyrylhydrazino)-2-sulfamoylbenzoate and 0.77 g (2.8 mmol) of phenyl-N-(4,6-dimethoxypyrimidin-2-yl)carbamate are initially introduced into 25 ml of acetonitrile. 0.83 g (5.6 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) is added dropwise at 0° C. and the mixture is stirred at this temperature for 2 hours. It is poured into water and the pH is brought to 2-3 with 2N HCl. The aqueous phase is extracted three times with CH2Cl2. After the CH2Cl2 phase has been washed with 2N HCl and water, it is dried and evaporated. The residue is triturated with diethyl ether. Filtration with suction and drying gives 0.8 g (64% of theory) of methyl 2-[3-(4,6-dimethoxypyrimidin-2-yl)-ureidosulfonyl]-4-(2-isobutyrylhydrazino)benzoate of melting point 169°-171° C. (decomposition).

reactant | methyl 4-(2-isobutyrylhydrazino)-2-sulfamoylbenzoate | 2.5 mmol, 0.8 g | C(C(C)C)(=O)NNC1=CC(=C(C(=O)OC)C=C1)S(N)(=O)=O | C12H17N3O5S
reactant | phenyl-N-(4,6-dimethoxypyrimidin-2-yl)carbamate | 2.8 mmol, 0.77 g | C1(=CC=CC=C1)OC(NC1=NC(=CC(=N1)OC)OC)=O | C13H13N3O4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 5.6 mmol, 0.83 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | HCl | 2N | Cl | ClH
solvent | water | O | H2O
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | methyl 2-[3-(4,6-dimethoxypyrimidin-2-yl)-ureidosulfonyl]-4-(2-isobutyrylhydrazino)benzoate | 0.8 g, 64% | COC1=NC(=NC(=C1)OC)NC(NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)NNC(C(C)C)=O)=O | C19H24N6O8S
